US05024912
8.0 g (23.7 m moles) of the thus obtained 5-(4-acetylaminobenzylidene)-5H-dibenzo[a,d]cycloheptene, 7.75 g (35.5 m moles) of p-iodotoluene, 3.70 g (26.8 m moles) of anhydrous potassium carbonate and 1.80 g of copper powder were added to 15 ml of p-cymene and stirred and refluxed for 5 hours. After the end of reaction, the reaction mixture was subjected to filtration by suction, and the filtrate was successively washed with an aqueous 3-5% sodium thiosulfate solution and an aqueous saturated NaCl solution. The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed therefrom under reduced pressure. The residue was dissolved in 40 ml of tetrahydrofuran and admixed with 2.70 (50.0 m moles) of sodium methylate at room temperature. The mixture as such was stirred at room temperature for one hour, and then the reaction mixture was poured into 150 ml of water. The precipitated crystal was recovered therefrom by filtration, and recrystallized from ethanol-methylethylketone solvent mixture, whereby 5.81 g of 5-[4-(p-tolylamino)benzylidene]-5H-dibenzo[a,d]cycloheptene was obtained (yield: 63.6%). The melting point was 174.0°-175.0° C., and elemental analysis as C29H23N was as follows:

reactant | 5-(4-acetylaminobenzylidene)-5H-dibenzo[a,d]cycloheptene | C(C)(=O)NC1=CC=C(C=C2C3=C(C=CC4=C2C=CC=C4)C=CC=C3)C=C1 | C24H19NO
reactant | p-iodotoluene | 7.75 g | IC1=CC=C(C=C1)C | C7H7I
reactant | potassium carbonate | 3.70 g | C([O-])([O-])=O.[K+].[K+]
reactant | p-cymene | 15 ml | CC=1C=CC(=CC1)C(C)C | C10H14
catalyst | copper | 1.80 g | [Cu] | Cu
product | 5-[4-(p-tolylamino)benzylidene]-5H-dibenzo[a,d]cycloheptene | 5.81 g, yield: 63.6% | C1(=CC=C(C=C1)NC1=CC=C(C=C2C3=C(C=CC4=C2C=CC=C4)C=CC=C3)C=C1)C | C29H23N
